US04374220
Preparation of N,N'-(2,3,5,6-tetrachloro-p-xylylene)-bis-phthalimide:
In a 3 liter, round-bottom flask equipped with a heating mantle, mechanical stirrer, thermometer, nitrogen inlet and condenser, 137 gms (0.5 mole) of 2,3,5,6-tetrachloro-p-xylylenediamine was dissolved at room temperature in 1 liter N-methyl-2-pyrrolidone (NMP). While stirring, 150 gms (1.0 mole) solid phthalic anhydride was added, the temperature rising to 47° C. The resulting greenish solution was heated to 180°-185° C. for 30 minutes, after which period crystallization took place. The hot mixture was poured into a 2 liter beaker when mass crystallization occurred.

reactant | 2,3,5,6-tetrachloro-p-xylylenediamine | 0.5 mole, 137 gms | ClC1=C(C(=C(C(=C1Cl)CN)Cl)Cl)CN | C8H8Cl4N2
reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | N-methyl-2-pyrrolidone | 1 liter | CN1C(CCC1)=O | C5H9NO
product | N,N'-(2,3,5,6-tetrachloro-p-xylylene)-bis-phthalimide | ClC1=C(C(=C(C(=C1Cl)CN1C(C=2C(C1=O)=CC=CC2)=O)Cl)Cl)CN2C(C=1C(C2=O)=CC=CC1)=O | C24H12Cl4N2O4
